US07994179B2
Intermediate 65-3: Methyl trans-4-(4-lactoylphenyl)cyclohexanecarboxylate
Sodium hydroxide (370 mg, 9.25 mmol) in water (2 mL) was added to a stirred solution of methyl trans-4-[4-(2-bromopropanoyl)phenyl]cyclohexanecarboxylate (prepared as described in Patent Application WO2004/047755) (3.264 g, 9.25 mmol) in DMF (10 mL). The mixture was stirred for 40 minutes then extracted with ether (5×20 mL). The extracts were combined, dried and concentrated. The crude product was purified by flash column chromatography eluting with 20-40% EtOAc/hexanes to give the title compound (1.76 g, 66%) as a solid; 1H NMR δ 7.94 (2H, d), 7.39 (2H, d), 5.29 (1H, d), 5.08-4.98 (1H, m), 3.62 (3H, s), 2.68-2.54 (1H, m), 2.48-2.35 (1H, m), 2.08-1.94 (2H, m), 1.90-1.79 (2H, m), 1.60-1.40 (4H, m), 1.28 (3H, s); MS 313 (M+Na)+.

reactant | Sodium hydroxide | 9.25 mmol, 370 mg | [OH-].[Na+]
reactant | methyl trans-4-[4-(2-bromopropanoyl)phenyl]cyclohexanecarboxylate | 9.25 mmol, 3.264 g | BrC(C(=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)OC)C | C17H21BrO3
solvent | water | 2 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl trans-4-(4-lactoylphenyl)cyclohexanecarboxylate | 1.76 g, 66% | C(C(O)C)(=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(=O)OC | C17H22O4
